US07087626B2
N,N-Dimethyl-3-{4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinolin-7-yl}-propionamide
To a solution of 3-{4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinolin-7-yl}-propionic acid methyl ester (0.30 g, 0.73 mmol) and 2M dimethylamine in methanol (1.05 mL, 2.1 mmol) in dichloromethane (1 mL) is added 2 M trimethylaluminum in hexane (1.64 mL, 3.25 mmol). The solution is heated at 40° C. for 48 h. The mixture is diluted with dichloromethane (150 mL), treated with saturated potassium sodium tartrate (30 mL), and stirred 18 h. The organic portion is separated and; washed with water and brine, dried (sodium sulfate), filtered, and concentrated in vacuo. The residue is chromatographed on SiO2 (10% methanol in dichloromethane) to yield the title compound, 0.29 g (89%), as a yellow foam.

reactant | 3-{4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinolin-7-yl}-propionic acid methyl ester | 0.73 mmol, 0.30 g | COC(CCC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC(=CC=C1)C)CCC2)=O | C25H24N4O2
reactant | dimethylamine | 2M | CNC | C2H7N
reactant | methanol | 2.1 mmol, 1.05 mL | CO | CH4O
reactant | trimethylaluminum | 2 M | C[Al](C)C
reactant | hexane | 3.25 mmol, 1.64 mL | CCCCCC | C6H14
reactant | potassium sodium tartrate | 30 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N,N-Dimethyl-3-{4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinolin-7-yl}-propionamide | CN(C(CCC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC(=CC=C1)C)CCC2)=O)C | C26H27N5O
